US07635715B2
Step C: Preparation of 2-(4-Fluorophenyl)-2-methylpropanoic acid
A mixture of ethyl 2-(4-fluorophenyl)-2-methylpropanoate (6 g, 29 mmol), KOH (3 g, 57 mmol) and 100 mL EtOH/H2O (4:1) was refluxed for 4 hours. The mixture was cooled to room temperature. The mixture was extracted with EtOAc and the organic layer discarded. The water layer was acidified with concentrated HCl, extracted with EtOAc, washed with H2O and brine, dried over anhydrous Na2SO4, and concentrated in vacuo to give 3.1 g of the product as a white solid. MS m/e=211(M−1)−.

reactant | ethyl 2-(4-fluorophenyl)-2-methylpropanoate | 29 mmol, 6 g | FC1=CC=C(C=C1)C(C(=O)OCC)(C)C | C12H15FO2
reactant | KOH | 57 mmol, 3 g | [OH-].[K+]
solvent | EtOH H2O | 100 mL | CCO.O
product | 2-(4-Fluorophenyl)-2-methylpropanoic acid | 3.1 g | FC1=CC=C(C=C1)C(C(=O)O)(C)C | C10H11FO2
